US07459552B2
Synthesis of methyl 2,6-dimethyl-4-trifluoromethylpyridine-3-carboxylate
1,1,1-Trifluoro-2,4-pentanedione (25.01 g, 135.3 mmol) was dissolved in acetonitrile (230 mL). Methyl 3-aminocrotonate (15.57 g, 135.2 mmol) was added to the solution, followed by refluxing for 20 hours. The reaction mixture was allowed to stand for cooling, followed by concentration under reduced pressure. The residue was purified through silica gel column chromatography (eluent: n-hexane/acetone=10/1), to thereby yield methyl 2,6-dimethyl-4-trifluoromethylpyridine-3-carboxylate as a yellow oil (22.30 g, 71%).

reactant | 1,1,1-Trifluoro-2,4-pentanedione | 135.3 mmol, 25.01 g | FC(C(CC(C)=O)=O)(F)F | C5H5F3O2
reactant | Methyl 3-aminocrotonate | 135.2 mmol, 15.57 g | N\C(=C/C(=O)OC)\C | C5H9NO2
solvent | acetonitrile | 230 mL | C(C)#N | C2H3N
product | methyl 2,6-dimethyl-4-trifluoromethylpyridine-3-carboxylate | CC1=NC(=CC(=C1C(=O)OC)C(F)(F)F)C | C10H10F3NO2
